US04360694
(b) 1,6-dipalmitoyl-2,5-dioleoyl-D-mannitol
3.3 g of 1,6-dipalmitoyl-D-mannitol and 0.53 of benzene boronic acid anhydride was added to a solution containing 20 ml of pyridine and 20 ml of trichloroethylene, and the mixture was dried with 5 g of molecular sieves. The mixture was cooled at -18° C. and 3.3 g of oleoyl chloride, dissolved in 10 ml of trichloroethylene, was added. The mixture was left standing over night at -18° C. and for four hours at room temperature. The reaction mixture was washed with 120 ml of 2 N hydrochloric acid and with water, and fractionated in a column containing 160 g of Sephadex LH 20 and eluting with a 1:1-mixture of chloroform and ethanol (90%), whereby the boronic acid protection was removed.

reactant | 1,6-dipalmitoyl-D-mannitol | 3.3 g | C(CCCCCCCCCCCCCCC)(=O)C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)C(O)C(CCCCCCCCCCCCCCC)=O)O | C38H74O8
reactant | trichloroethylene | 20 ml | ClC=C(Cl)Cl | C2HCl3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 1,6-dipalmitoyl-2,5-dioleoyl-D-mannitol | C(CCCCCCCCCCCCCCC)(=O)C([C@@](O)([C@@H](O)[C@H](O)[C@](O)(C(O)C(CCCCCCCCCCCCCCC)=O)C(CCCCCCC\C=C/CCCCCCCC)=O)C(CCCCCCC\C=C/CCCCCCCC)=O)O | C74H138O10
